US08247430B2
3-nitro-5-(trifluoromethyl)phenylamine
To a solution of 3,5-dinitrobenzotrifluoride (10 g, 42 mmols, 1 eq.) in 150 mL of EtOH was added 17.6 mL (258.3 mmols, 6.15 eq.) of ammonium sulfide in water (50% by weight, Aldrich). The reaction was heated to reflux for 16 h during which time it became orange and a yellow precipitate formed. After cooling the volume was reduced to approximately 50 mL. The solid was removed by filtration and the filtrate evaporated to dryness in vacuo. The resulting orange solid was purified by column chromatography eluting with a step gradient of 20-30% EtOAc:hexane to provide the compound as a yellow/orange solid.

reactant | 3,5-dinitrobenzotrifluoride | 42 mmols, 10 g, 1 eq. | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C(F)(F)F | C7H3F3N2O4
reactant | ammonium sulfide | 258.3 mmols, 17.6 mL, 6.15 eq. | [NH4+]=S
solvent | EtOH | 150 mL | CCO | C2H6O
solvent | water | O | H2O
product | 3-nitro-5-(trifluoromethyl)phenylamine | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)N | C7H5F3N2O2
